US06627637B2
To a mixture of 8-methoxy-β-carboline (1.0 g, 5 mmol) in THF (100 ml) was added N-chlorosuccinimide (0.70 g, 5.2 mmol). The reaction was stirred at RT for 4 h before concentrating and washing the residue with 1:1:1 mixture of 10% Na2CO3, hexane, and EtOAc (400 ml). The resulting residue was triturated with xylenes to provide 677 mg of 7-chloro-8-methoxy-β-carboline. A solution of 7-chloro-8-methoxy-β-carboline (677 mg, 2.9 mmol) in trifluoroacetic acid (10 ml) was treated with NaNO3 (260 mg, 3.06 mmol). The reaction was stirred for 3 h at RT and then concentrated. The crude product was chromatographed on silica eluting with a 5% to 10% methanol in chloroform gradient to provide 463 mg of 7-chloro-8-methoxy-9-nitro-β-carboline.

reactant | 8-methoxy-β-carboline | 5 mmol, 1.0 g | COC=1C=CC=C2C=3C=CN=CC3NC12 | C12H10N2O
reactant | N-chlorosuccinimide | 5.2 mmol, 0.70 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-chloro-8-methoxy-β-carboline | 677 mg | ClC1=CC=C2C=3C=CN=CC3NC2=C1OC | C12H9ClN2O
